US06034275
A solution of 3.4 g of (4E,8E)-1-(4-bromo-phenyl)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy)-deca-4,8-dien-1-ol in 60 ml of methylene chloride is treated in succession with 0.29 g of sodium carbonate and 7.5 g of manganese(IV) oxide. After stirring for 3 hrs. the mixture is filtered and again treated in methylene chloride with 0.29 g of sodium carbonate and 7.5 g of manganese (IV) oxide. After filtration and silica gel chromatography with hexane/ethyl acetate (9:1) there are obtained 1.98 g of (4E,8E)-(RS)-1-(4-bromo-phenyl)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy)-deca-4,8-dien-1-one.

reactant | (4E,8E)-1-(4-bromo-phenyl)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy)-deca-4,8-dien-1-ol | 3.4 g | BrC1=CC=C(C=C1)C(CC\C(=C\CC\C(=C\COC1OCCCC1)\C)\C)O | C23H33BrO3
reactant | sodium carbonate | 0.29 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese(IV) oxide | 7.5 g | [O-2].[Mn+4].[O-2]
product | (4E,8E)-(RS)-1-(4-bromo-phenyl)-4,8-dimethyl-10-(tetrahydro-pyran-2-yloxy)-deca-4,8-dien-1-one | 1.98 g | BrC1=CC=C(C=C1)C(CC\C(=C\CC\C(=C\COC1OCCCC1)\C)\C)=O | C23H31BrO3
